US07179823B1
After a mixture of ethyl(E)-3-[1-[4-(2-phenyl-4-thiazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazol-4-yl]propenoate (1.25 g), 1N aqueous sodium hydroxide solution (5 ml), tetrahydrofuran (5 ml), and ethanol (5 ml) was stirred at 50° C. for 2 hours, 1N hydrochloric acid (5 ml) was added to the mixture, and then the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The resulting colorless crystals were collected by filtration to obtain (E)-3-[1-[4-(2-phenyl-4-thiazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazol-4-yl]propenoic acid (970 mg, yield 82%). This was recrystallized from ethyl acetate-hexane. Melting point: 137˜138° C.

reactant | ethyl(E)-3-[1-[4-(2-phenyl-4-thiazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazol-4-yl]propenoate | 1.25 g | C1(=CC=CC=C1)C=1SC=C(N1)COC1=CC=C(CN2N=C(C(=C2)/C=C/C(=O)OCC)C=2SC=CC2)C=C1 | C29H25N3O3S2
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N, 5 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (E)-3-[1-[4-(2-phenyl-4-thiazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazol-4-yl]propenoic acid | 970 mg, yield 82% | C1(=CC=CC=C1)C=1SC=C(N1)COC1=CC=C(CN2N=C(C(=C2)/C=C/C(=O)O)C=2SC=CC2)C=C1 | C27H21N3O3S2
